US03951981
Preparation of 7-Chloro-4-methyl-10-(methylthio)-4H-thieno[3,4-b] [1,5] benzodiazepine
To a stirred suspension of 1.1 g. of 7-chloro-4-methyl-4,9-dihydro-10H-thieno[3,4-b] [1,5] benzodiazepin-10-thione in 15 ml. of dioxane is added dropwise and simultaneously at 30°-40°C., a solution of 1.3 g. of potassium hydroxide in 15 ml. of methanol and 1.1 g. of methyl sulfate. After addition is complete, the mixture is stirred for 3 hours, diluted with methanol and filtered. The filtrate is concentrated to 20 ml., diluted with water and the precipitate is collected. Recrystallization from methanol-water gives deep yellow crystals, m.p. 156°-158°C.

reactant | 7-chloro-4-methyl-4,9-dihydro-10H-thieno[3,4-b] [1,5] benzodiazepin-10-thione | ClC=1C=CC2=C(NC(C=3C(N2C)=CSC3)=S)C1 | C12H9ClN2S2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | methyl sulfate | S(=O)(=O)(OC)[O-]
solvent | methanol | CO | CH4O
product | 7-Chloro-4-methyl-10-(methylthio)-4H-thieno[3,4-b] [1,5] benzodiazepine | ClC=1C=CC2=C(N=C(C=3C(N2C)=CSC3)SC)C1 | C13H11ClN2S2
